US05169896
A 500 ml flask equipped with a decanter, a thermometer, a stirrer and an inlet for nitrogen gas was charged with 65.1 g (0.5 mol) of 2-hydroxyethyl methacrylate and 365.4 g (2.5 mol) of diethyl oxalate, to which 2 g (10 mmol) of p-toluenesulfonic acid (catalyst) and 4 g of hydroquinone (polymerization inhibitor) were added. The mixture was heated to keep 120° C. for 4 hours in nitrogen atmosphere with distilling 14 ml (0.25 mol) of ethanol away. The reaction mixture was evaporated to remove excess diethyl oxalate and then distilled under vacuum to obtain 88.1 g (yield 76.5%) of 2-ethoxalyloxyethyl methacrylate (colorless transparent liquid) (bp 98° C./0.3 mmHg).

reactant | 2-hydroxyethyl methacrylate | 0.5 mol, 65.1 g | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | diethyl oxalate | 2.5 mol, 365.4 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ethanol | 0.25 mol, 14 ml | C(C)O | C2H6O
catalyst | p-toluenesulfonic acid | 10 mmol, 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
catalyst | hydroquinone | 4 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 2-ethoxalyloxyethyl methacrylate | 88.1 g, yield 76.5% | C(C(=C)C)(=O)OCCOC(=O)C(=O)OCC | C10H14O6
